US04806673
A preferred manner of practicing this invention constitutes heating a solventless mixture of Bisphenol A and cyanide ion in a closed vessel to about 185° C. and maintaining that temperature for about 20 hours to produce 4-(1-cyano-1-methylethyl)phenol. Preferred conversions and yields based on Bisphenol A are about 100 percent and 80 percent respectively.

reactant | Bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | cyanide | [C-]#N
product | 4-(1-cyano-1-methylethyl)phenol | C(#N)C(C)(C)C1=CC=C(C=C1)O | C10H11NO
